US06350749B1
To a suspension of 3-carboxy-4-oxo-6-phenyl-4,5,6,7-tetrahydrobenzofuran (1.28 g) in dichloromethane (25 ml) were added, under ice-cooling, WSC (1.15 g) and N-hydroxybenzotriazole (0.92 g), and the mixture was stirred at room temperature for 30 minutes. To the mixture was added concentrated ammonia solution (4.1 g), and the mixture was stirred at room temperature overnight (12 hours). To the reaction solution was added water, and the mixture was subjected to extraction. The lower layer was washed with saturated brine, dried (anhydrous magnesium sulfate) and concentrated under reduced pressure, and the residue was washed with ethyl acetate and isopropylether to give 3-carbamoyl-6-phenyl-4,5,6,7-tetrahydrobenzofuran-4-one (0.36 g).

reactant | 3-carboxy-4-oxo-6-phenyl-4,5,6,7-tetrahydrobenzofuran | 1.28 g | C(=O)(O)C1=COC2=C1C(CC(C2)C2=CC=CC=C2)=O | C15H12O4
reactant | WSC | 1.15 g | CCN=C=NCCCN(C)C | C8H17N3
reactant | N-hydroxybenzotriazole | 0.92 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | ammonia | 4.1 g | N | H3N
solvent | dichloromethane | 25 ml | ClCCl | CH2Cl2
solvent | water | O | H2O
product | 3-carbamoyl-6-phenyl-4,5,6,7-tetrahydrobenzofuran-4-one | 0.36 g | C(N)(=O)C1=COC2=C1C(CC(C2)C2=CC=CC=C2)=O | C15H13NO3
